US09278950B2
Step 2: tert-Butyl ((3R,4R,5S)-1-(3-Aminopyridin-4-yl)-4-{[tert-butyl(dimethyl)silyl]oxy}-5-methylpiperidin-3-yl)carbamate
A mixture of tert-butyl [(3R,4R,5S)-4-{[tert-butyl(dimethyl)silyl]oxy}-5-methyl-1-(3-nitropyridin-4-yl)piperidin-3-yl]carbamate (13.4 g, 28.7 mmol) in MeOH (80 mL) was hydrogenated in the presence of 10% palladium on carbon (4.6 g) under 60 psi of hydrogen for 16 h. The reaction mixture was filtered through diatomaceous earth and the filtrate was concentrated under reduced pressure to give the sub-title compound (12.5 g, 99%). LCMS calc. for C22H41N4O3Si (M+H)+: m/z=437.3. Found: 437.4.

reactant | tert-butyl [(3R,4R,5S)-4-{[tert-butyl(dimethyl)silyl]oxy}-5-methyl-1-(3-nitropyridin-4-yl)piperidin-3-yl]carbamate | 28.7 mmol, 13.4 g | [Si](C)(C)(C(C)(C)C)O[C@H]1[C@@H](CN(C[C@@H]1C)C1=C(C=NC=C1)[N+](=O)[O-])NC(OC(C)(C)C)=O | C22H38N4O5Si
reactant | hydrogen | [H][H] | H2
solvent | MeOH | 80 mL | CO | CH4O
catalyst | palladium on carbon | 4.6 g | [Pd] | Pd
product | tert-Butyl ((3R,4R,5S)-1-(3-Aminopyridin-4-yl)-4-{[tert-butyl(dimethyl)silyl]oxy}-5-methylpiperidin-3-yl)carbamate | 12.5 g, 99% | NC=1C=NC=CC1N1C[C@H]([C@@H]([C@H](C1)C)O[Si](C)(C)C(C)(C)C)NC(OC(C)(C)C)=O | C22H40N4O3Si
